US04514416
To a solution of 360 g of 4-bromophenol in 4.3 liters of ethyl acetate, was added 326 ml of triethylamine. To the mixture, while being cooled in ice and stirred, was added dropwise 300 g of benzoyl chloride over a period of 90 minutes. After two hours of stirring, water was added to the reaction mixture to remove the triethylamine hydrochloride. The ethyl acetate layer was washed successively with a dilute aqueous alkali solution, dilute hydrochloric acid, and saturated aqueous sodium chloride solution, then dried over anhydrous magnesium sulfate, and freed from the solvent by distillation. The residue was washed with ethanol and dried to obtain 500 g of 4-bromophenyl benzoate.

reactant | 4-bromophenol | 360 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | triethylamine | 326 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 300 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | ethyl acetate | 4.3 liters | C(C)(=O)OCC | C4H8O2
product | 4-bromophenyl benzoate | 500 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)Br | C13H9BrO2
